US06723722B1
A mixture of ethyl 2-[[2-[[(benzyloxy)carbonyl]amino]propyl]amino]acetate (1.9 g) and sodium carbonate (1.4 g) in ethyl acetate (20 ml) and water (20 ml) was treated dropwise with di-tert-butyl dicarbonate (1.6 ml) and stirred at room temperature for 2 hours. The organic phase was separated, washed with saturated brine, dried (MgSO2) and concentrated under reduced pressure. The residue was purified by a column chromatography on a silica gel (hexane:ethyl acetate=3:2) to obtain ethyl 2-[[2-[[(benzyloxy)carbonyl]amino]propyl](tert-butoxycarbonyl)amino]acetate (2.3 g) as a colorless oil.

reactant | ethyl 2-[[2-[[(benzyloxy)carbonyl]amino]propyl]amino]acetate | 1.9 g | C(C1=CC=CC=C1)OC(=O)NC(CNCC(=O)OCC)C | C15H22N2O4
reactant | sodium carbonate | 1.4 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | di-tert-butyl dicarbonate | 1.6 ml | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 20 ml | O | H2O
product | ethyl 2-[[2-[[(benzyloxy)carbonyl]amino]propyl](tert-butoxycarbonyl)amino]acetate | 2.3 g | C(C1=CC=CC=C1)OC(=O)NC(CN(CC(=O)OCC)C(=O)OC(C)(C)C)C | C20H30N2O6
